US04041162
7-(4-Pyridylthioacetamido)-3-(5-sulfomethyl-1,3,4-oxadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid
(4-Pyridylthio)acetyl chloride (0.53 g, 2.8 mmol) is dropwise added to a mixture of 1.0 g of 7-amino-3-(5-sulfomethyl-1,3,4-oxadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid and 0.9 g (9.0 mmol) of triethylamine in 10 ml of dry dimethylformamide. The reaction mixture is stirred for 1.5 hour at -10°, then it is warmed to ambient temperature and stirred for 1 hour. The mixture is filtered and the filtrate is diluted with 200 ml of ether-petroleum ether. The precipitate is collected by filtration and dissolved in water. The aqueous solution is passed through an Amberlite IR-120H resin column and the product-containing fractions are lyophilized to give the title compound.

reactant | (4-Pyridylthio)acetyl chloride | 2.8 mmol, 0.53 g | N1=CC=C(C=C1)SCC(=O)Cl | C7H6ClNOS
reactant | 7-amino-3-(5-sulfomethyl-1,3,4-oxadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.0 g | NC1[C@@H]2N(C(=C(CS2)CSC=2OC(=NN2)CS(=O)(=O)O)C(=O)O)C1=O | C11H12N4O7S3
reactant | triethylamine | 9.0 mmol, 0.9 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-(4-Pyridylthioacetamido)-3-(5-sulfomethyl-1,3,4-oxadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | N1=CC=C(C=C1)CC(=S)NC1[C@@H]2N(C(=C(CS2)CSC=2OC(=NN2)CS(=O)(=O)O)C(=O)O)C1=O | C18H17N5O7S4
